### PR TITLE
[Merged by Bors] - feat: fderiv lemmas for `pow`

### PR DESCRIPTION
**Pull request by eric-wieser**
This generalizes the lemmas about `fderiv fun x => f x ^ n` to work over arbitrary normed modules and (noncommutative) algebras.

Following the convention set by the lemmas about `fderiv` and `*`, we use `'`d names for the non-commutative variants.

The naming is still a little confusing around derivatives (see [#mathlib4 > deriv neg lemmas @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/deriv.20neg.20lemmas/near/514357126)), but having these results with _some_ names is better than not having them at all.

Moves:
- `deriv_fun_pow''` -> `deriv_fun_pow`
- `deriv_pow''` -> `deriv_pow`
- `deriv_pow` -> `deriv_pow_field`
- `derivWithin_pow'` -> `derivWithin_pow_field`

Deletions:
- `deriv_pow'`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by eric-wieser** [comment]
This picked up some slightly annoying conflicts from #26355, hopefully now fixed.

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 1]
```diff
@@ -0,0 +1,221 @@
...
+-/
+import Mathlib.Analysis.Calculus.FDeriv.Mul
+import Mathlib.Analysis.Calculus.FDeriv.Comp
+
+/-!
+# Derivative of `(f x) ^ n`, `n : ℕ`
+
+In this file we prove that `(x ^ n)' = n * x ^ (n - 1)`, where `n` is a natural number.
+Additionally, we prove the case for non-commutative rings,
+where the result is instead `∑ i ∈ Finset.range n, f x ^ (n.pred - i) •> f' <• f x ^ i`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean]: This paragraph is strange because the first sentence is about the derivative of `x -> x ^ n`, and the second about `x -> (f x) ^ n`.

Comment (sgouezel) [reply Mathlib/Analysis/Calculus/FDeriv/Pow.lean]: Also, could you mention in the file-level docstring that primed lemmas refer to the noncommutative version?

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 2]
```diff
@@ -0,0 +1,221 @@
...
+      + f' <• (f x ^ (n + 1)) =
+    ∑ i ∈ Finset.range (n + 1 + 1), f x ^ ((n + 1 + 1).pred - i) •> f' <• f x ^ i := by
+  rw [Finset.sum_range_succ _ (n + 1), Finset.smul_sum]
+  simp only [Nat.pred_eq_sub_one, add_tsub_cancel_right, tsub_self, pow_zero, one_smul]
+  simp_rw [smul_comm (_ : 𝔸) (_ : 𝔸ᵐᵒᵖ), smul_smul, ← pow_succ']
+  congr! 5 with x hx
+  simp [Nat.lt_succ_iff] at hx
+  rw [tsub_add_eq_add_tsub hx]
+
+theorem HasStrictFDerivAt.pow' (h : HasStrictFDerivAt f f' x) (n : ℕ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean]:
```suggestion
theorem HasStrictFDerivAt.fun_pow' (h : HasStrictFDerivAt f f' x) (n : ℕ) :
```
Could you do this consistently throughout the PR (this is mostly already the case) and add the `.pow'` versions when missing?

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 3]
```diff
@@ -0,0 +1,221 @@
...
+
+/-!
+# Derivative of `(f x) ^ n`, `n : ℕ`
+
+In this file we prove that `(x ^ n)' = n * x ^ (n - 1)`, where `n` is a natural number.
+Additionally, we prove the case for non-commutative rings,
+where the result is instead `∑ i ∈ Finset.range n, f x ^ (n.pred - i) •> f' <• f x ^ i`.
+
+For a more detailed overview of one-dimensional derivatives in mathlib, see the module docstring of
+`Analysis/Calculus/Deriv/Basic`.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean]: Please use the full path, then doc gen links it

File: Mathlib/Analysis/Calculus/Deriv/Pow.lean [hunk 4]
```diff
@@ -19,87 +18,139 @@ For a more detailed overview of one-dimensional derivatives in mathlib, see the
...
   · simp [derivWithin_zero_of_not_uniqueDiffWithinAt hsx]
 
-theorem derivWithin_pow' (hc : DifferentiableWithinAt 𝕜 c s x) :
+theorem derivWithin_pow_field' (hc : DifferentiableWithinAt 𝕜 c s x) (n : ℕ) :
     derivWithin (c ^ n) s x = (n : 𝕜) * c x ^ (n - 1) * derivWithin c s x :=
-  derivWithin_fun_pow' _ hc
+  derivWithin_fun_pow_field' hc n
 
-@[simp]
-theorem deriv_fun_pow'' (hc : DifferentiableAt 𝕜 c x) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/Deriv/Pow.lean:98]: Can you add a deprecation for this?

File: Mathlib/Analysis/Calculus/Deriv/Pow.lean [hunk 5]
```diff
@@ -19,87 +18,139 @@ For a more detailed overview of one-dimensional derivatives in mathlib, see the
...
-    deriv (fun x => c x ^ n) x = (n : 𝕜) * c x ^ (n - 1) * deriv c x :=
-  (hc.hasDerivAt.pow n).deriv
+theorem hasStrictDerivAt_pow (n : ℕ) (x : 𝕜) :
+    HasStrictDerivAt (fun x : 𝕜 ↦ x ^ n) (n * x ^ (n - 1)) x := by
+  simpa using (hasStrictDerivAt_id x).pow n
 
-@[simp]
-theorem deriv_pow'' (hc : DifferentiableAt 𝕜 c x) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/Deriv/Pow.lean:103]: And this?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Is the naming situation still confusing as you state in the pr summary? I thought that had (mostly?) been fixed

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Pow.lean]: Fixed, thanks!

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Pow.lean]: Done I think, could you check if I missed any?

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 6]
```diff
@@ -0,0 +1,235 @@
...
+    HasFDerivWithinAt (fun x ↦ f x ^ n)
+      (∑ i ∈ Finset.range n, f x ^ (n.pred - i) •> f' <• f x ^ i) s x :=
+  match n with
+  | 0 => by simpa using hasFDerivWithinAt_const 1 x s
+  | 1 => by simpa using h
+  | n + 1 + 1 => by
+    have := h.mul' (h.fun_pow' (n + 1))
+    simp_rw [pow_succ' _ (n + 1)]
+    exact this.congr_fderiv <| aux _ _ _ _
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean:74]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 7]
```diff
@@ -0,0 +1,235 @@
...
+theorem differentiable_pow (n : ℕ) : Differentiable 𝕜 fun x : 𝔸 => x ^ n :=
+  differentiable_id.pow _
+
+theorem fderiv_fun_pow' (n : ℕ) (hf : DifferentiableAt 𝕜 f x) :
+    fderiv 𝕜 (fun x ↦ f x ^ n) x
+      = (∑ i ∈ Finset.range n, f x ^ (n.pred - i) •> fderiv 𝕜 f x <• f x ^ i) :=
+  hf.hasFDerivAt.pow' n |>.fderiv
+
+theorem fderiv_pow' (n : ℕ) (hf : DifferentiableAt 𝕜 f x) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean:157]: could you add `fderiv_pow_algebra` (or whatever name) for the derivative of `x -> x^n`, and same thing for the within version?

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean [hunk 8]
```diff
@@ -0,0 +1,235 @@
...
+theorem HasFDerivAt.pow (h : HasFDerivAt f f' x) (n : ℕ) :
+    HasFDerivAt (fun x ↦ f x ^ n) ((n • f x ^ (n - 1)) • f') x :=
+  h.pow' n |>.congr_fderiv <| aux_sum_eq_pow _
+
+theorem hasFDerivAt_pow (n : ℕ) {x : 𝔸} :
+    HasFDerivAt (𝕜 := 𝕜)
+      (fun x : 𝔸 ↦ x ^ n) ((n • x ^ (n - 1)) • ContinuousLinearMap.id 𝕜 𝔸) x :=
+  hasFDerivAt_id _ |>.pow n
+
+theorem fderiv_fun_pow (n : ℕ) (hf : DifferentiableAt 𝕜 f x) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Pow.lean:227]: ditto

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

File: Mathlib/Analysis/Calculus/Deriv/Pow.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Pow.lean:98]: Done

File: Mathlib/Analysis/Calculus/Deriv/Pow.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Pow.lean:103]: Done

File: Mathlib/Analysis/Calculus/FDeriv/Pow.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Pow.lean:157]: Done, as `_ring`

**Comment by eric-wieser** [comment]
> Is the naming situation still confusing as you state in the pr summary? I thought that had (mostly?) been fixed

Can you summarize on the zulip thread why you think the situation is resolved? I think we still have a mess regarding `deriv f = ...` vs `deriv f x = ...` (which I would prefer not to block merging this PR)

**Comment by sgouezel** [comment]
bors r+
Thanks!
